US09340538B2
Ethyl 4-(2-bromo-4-fluorophenyl)-6-(((S)-3-((2-hydroxyethyl)carbamoyl)morpholino)methyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate
(3S)-4-((6-(2-bromo-4-fluorophenyl)-5-(ethoxycarbonyl)-2-(thiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholine-3-carboxylic acid (0.5 g, 0.9 mmol) was reacted with 2-aminoethanol (72 mg, 1.2 mmol) according to the procedure as described in Example 53 to give the title compound as a yellow solid (0.3 g, 56%). The compound was characterized by the following spectroscopic data:

reactant | (3S)-4-((6-(2-bromo-4-fluorophenyl)-5-(ethoxycarbonyl)-2-(thiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholine-3-carboxylic acid | 0.9 mmol, 0.5 g | BrC1=C(C=CC(=C1)F)C1C(=C(NC(=N1)C=1SC=CN1)CN1[C@@H](COCC1)C(=O)O)C(=O)OCC | C22H22BrFN4O5S
reactant | 2-aminoethanol | 1.2 mmol, 72 mg | NCCO | C2H7NO
product | Ethyl 4-(2-bromo-4-fluorophenyl)-6-(((S)-3-((2-hydroxyethyl)carbamoyl)morpholino)methyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 0.3 g, 56% | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)CN1[C@@H](COCC1)C(NCCO)=O)C=1SC=CN1 | C24H27BrFN5O5S
